US04996318
PREPARATION A-51 4-[2,6-Bis(2-pyridinyl)-4-pyrimidinyl]-piperazine
4-Chloro-2,6-bis(2-pyridinyl)pyrimidine [prepared by the method of J.A.C.S. 32, 1591 (1967), 4.2 g] piperazine (13.44 g) and ethanol (70 ml) is heated at reflux for 2 hr. The mixture is allowed to cool and the solvent is removed under reduced pressure. The residue is dissolved in chloroform (250 ml), washed with water (twice), dried over sodium sulfate and concentrated under reduced pressure to give an oil. The oil is crystallized from ether to give the title compound, mp 159-161°; MS (m/e) 318 (M+).

reactant | 4-Chloro-2,6-bis(2-pyridinyl)pyrimidine | ClC1=NC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C14H9ClN4
reactant | piperazine | 13.44 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-[2,6-Bis(2-pyridinyl)-4-pyrimidinyl]-piperazine | N1=C(C=CC=C1)C1=NC(=CC(=N1)N1CCNCC1)C1=NC=CC=C1 | C18H18N6
